US07816385B2
A mixture of ethyl 3-(4-hydroxyphenyl)-2-ethoxypropanoate (100.8 g, 0.423 mol), triethylamine (83.4 g, 115 ml, 0.824 mol), 4-dimethylaminopyridine (5.2 g, 42.3 mmol) and dimethylthiocarbamoyl chloride (62.6 g, 0.507 mol) in dioxane (640 ml) was stirred and heated at 100° C. for 10 h in nitrogen atmosphere. The solid was filtered off, washed with dioxane and the filtrates were evaporated in vacuo. The residue was dissolved in dichloromethane (600 ml), the solution was washed with water (3×250 ml), dried (MgSO4) and passed through column of silica gel (Fluka 60, 500 g). The column was washed with 500 ml dichloromethane, collected dichloromethane solutions were evaporated to yield 140.1 g (˜100%) of 3-(4-dimethylthiocarbamoyloxy-phenyl)-2-ethoxy-propionic acid ethyl ester as an oil, which was used to next step.

reactant | ethyl 3-(4-hydroxyphenyl)-2-ethoxypropanoate | 0.423 mol, 100.8 g | OC1=CC=C(C=C1)CC(C(=O)OCC)OCC | C13H18O4
reactant | triethylamine | 0.824 mol, 115 ml, 83.4 g | C(C)N(CC)CC | C6H15N
reactant | dimethylthiocarbamoyl chloride | 0.507 mol, 62.6 g | CN(C(=S)Cl)C | C3H6ClNS
catalyst | 4-dimethylaminopyridine | 42.3 mmol, 5.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dioxane | 640 ml | O1CCOCC1 | C4H8O2
product | 3-(4-dimethylthiocarbamoyloxy-phenyl)-2-ethoxy-propionic acid ethyl ester | 140.1 g, ~100% | C(C)OC(C(CC1=CC=C(C=C1)OC(N(C)C)=S)OCC)=O | C16H23NO4S
